US07435815B2
2-[(4-tert-Butyl-benzenesulfonyl)-(1H-indazol-6-yl)-amino]-N-ethyl-N-pyridin-3-ylmethyl-acetamide
prepared by reaction of [(4-tert-butyl-benzenesulfonyl)-(1H-indazol-6-yl)-amino]-acetic acid with ethyl-pyridin-3-ylmethyl-amine

reactant | [(4-tert-butyl-benzenesulfonyl)-(1H-indazol-6-yl)-amino]-acetic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C1=CC=C2C=NNC2=C1)CC(=O)O | C19H21N3O4S
reactant | ethyl-pyridin-3-ylmethyl-amine | C(C)NCC=1C=NC=CC1 | C8H12N2
product | 2-[(4-tert-Butyl-benzenesulfonyl)-(1H-indazol-6-yl)-amino]-N-ethyl-N-pyridin-3-ylmethyl-acetamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(CC(=O)N(CC=1C=NC=CC1)CC)C1=CC=C2C=NNC2=C1 | C27H31N5O3S
